US04207234
3-(1-Methoxycarbonyl-2-methylpropylamino)-2-(2-phenylacetamido)propionic acid (0.92 g) was dissolved in ethyl acetate (100 ml), and to the solution, there were added 4-methylmorpholine (0.66 g) and 1-(4-chlorobenzenesulfonyloxy)-6-chloro-1H-benzotriazole (1.11 g) under ice-cooling. The mixture was stirred at the same temperature for 18 hours and the insoluble materials were removed by filtration from the reaction mixture and ice-water (30 ml) was poured into the filtrate, whereafter the resultant mixture was stirred enough. The ethyl acetate layer was separated from the mixture, washed three times with an aqueous sodium bicarbonate and once with water, and then dried over magnesium sulfate. The solution was evaporated to dryness under reduced pressure to give a residue, which was subjected to column chromatography on silica gel (15 g). Elution was carried out with chloroform and the fractions containing a desired compound were collected. The solvent was removed by distillation from the eluate under reduced pressure to give 1-(1-methoxycarbonyl-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (10 mg), mp 105° to 107° C.

reactant | 3-(1-Methoxycarbonyl-2-methylpropylamino)-2-(2-phenylacetamido)propionic acid | 0.92 g | COC(=O)C(C(C)C)NCC(C(=O)O)NC(CC1=CC=CC=C1)=O | C17H24N2O5
reactant | 4-methylmorpholine | 0.66 g | CN1CCOCC1 | C5H11NO
reactant | 1-(4-chlorobenzenesulfonyloxy)-6-chloro-1H-benzotriazole | 1.11 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C12H7Cl2N3O3S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(1-methoxycarbonyl-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 10 mg | COC(=O)C(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C17H22N2O4
